US08283354B2
4-Chloro-2-(2-methoxyphenyl) quinazoline
A suspension of 2-(2-methoxyphenyl)quinazolin-4(3H)-one (567 g, 2.1 mol) in phosphoryl chloride (2 L, 21 mol) and a catalytic amount of N,N-dimethyl aniline was brought to reflux. The reaction started immediately with the evolution of gas (HCl) upon the addition of N,N-dimethyl aniline. After the production of gas had ceased the mixture was cooled to room temperature. The excess POCl3 was evaporated. The resulting dark solution was cooled to room temperature and slowly poured on ice and water, while maintaining the temperature below 5° C. The cold suspension was extracted with dichloromethane. The extract was dried over sodium sulfate and filtered, and the solvent was removed in vacuo. The crude material was purified by column chromatography (silica gel, CH2Cl2). Yield: 189 g (33%) of 4 chloro-2-(2-methoxyphenyl) quinazoline. 1H-NMR (300 MHz, Me2SO-d6): δ 3.85 (s, 3H), 7.15 (t, 1H), 7.25 (d, 1H), 7.60 (t, 2H), 7.70 (d, 1H), 7.8 (d, 1H), 7.9 (t, 1H), 8.2 (d, 1H).

reactant | 2-(2-methoxyphenyl)quinazolin-4(3H)-one | 2.1 mol, 567 g | COC1=C(C=CC=C1)C1=NC2=CC=CC=C2C(N1)=O | C15H12N2O2
reactant | phosphoryl chloride | 21 mol, 2 L | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethyl aniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | HCl | Cl | ClH
product | 4-Chloro-2-(2-methoxyphenyl) quinazoline | ClC1=NC(=NC2=CC=CC=C12)C1=C(C=CC=C1)OC | C15H11ClN2O
